US06069158
a) 2-(N-Boc-amino)-6-picoline
To a stirred solution of 2-amino-6-picoline (4.33 g, 40 mmol), Et3N (6.2 mL, 40 mmol) and CH2Cl2 (50 mL) at 0° C. was added di-tert-butyl dicarbonate (9.6 g, 44 mmol). After stirring at RT overnight, the reaction mixture was concentrated in vacuum, diluted with H2O, and extracted with CH2Cl2 (2×50 mL). Drying (MgSO4) and concentration gave the title compound as colorless oil: MS (ES) m/e 209 (M+H)+.

reactant | 2-amino-6-picoline | 40 mmol, 4.33 g | NC1=NC(=CC=C1)C | C6H8N2
reactant | Et3N | 40 mmol, 6.2 mL | CCN(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 44 mmol, 9.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(N-Boc-amino)-6-picoline | C(=O)(OC(C)(C)C)NC1=NC(=CC=C1)C | C11H16N2O2
